US07067540B2
To an ice-cold solution of (2-bromomethylphenyl)acetic acid (1 g, 4.4 mmol) in THF (2.4 mL) was added trimethylsilyldiazomethane (3 mL of a 2 M solution in hexanes, 6 mmol), and the reaction mixture was stirred for 14 h. The reaction was quenched with AcOH, and the solvent was removed under reduced pressure. Purification by flash column chromatography (silica, eluent 98:2 to 94:6 methylene chloride/hexanes) afforded methyl(2-bromomethylphenyl)acetate as a light yellow solid (0.34 g, 32%): 1H NMR (300 MHz, CDCl3) δ 7.40-7.20 (m, 4H), 4.59 (s, 2H), 3.81 (s 2H), 3.71 (s, 3H).

reactant | (2-bromomethylphenyl)acetic acid | 4.4 mmol, 1 g | BrCC1=C(C=CC=C1)CC(=O)O | C9H9BrO2
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | THF | 2.4 mL | C1CCOC1 | C4H8O
product | methyl(2-bromomethylphenyl)acetate | 0.34 g, 32% | COC(CC1=C(C=CC=C1)CBr)=O | C10H11BrO2
